### PR TITLE
Linked lists

### PR DESCRIPTION
**Pull request by michaelmcinerney**
Test with https://github.com/seL4/seL4/pull/1176

### CODE REVIEW

File: proof/crefine/AARCH64/Recycle_C.thy [hunk 1]
```diff
@@ -1024,11 +1011,18 @@ lemma cancelBadgedSends_ccorres:
            apply (frule_tac x=word in tcbSchedEnqueue_cslift_precond_discharge)
               apply simp
              subgoal by clarsimp
+             subgoal by clarsimp
+             subgoal by clarsimp
             subgoal by clarsimp
```
Comment (lsf37) [inline proof/crefine/AARCH64/Recycle_C.thy:1016]: indentation is off on this one

File: proof/crefine/AARCH64/Recycle_C.thy [hunk 2]
```diff
@@ -1024,11 +1011,18 @@ lemma cancelBadgedSends_ccorres:
...
            subgoal by clarsimp
+             subgoal by clarsimp
```
Comment (lsf37) [inline proof/crefine/AARCH64/Recycle_C.thy:1018]: indentation

File: proof/crefine/AARCH64/Recycle_C.thy [hunk 3]
```diff
@@ -1068,8 +1062,21 @@ lemma cancelBadgedSends_ccorres:
...
+
+apply (auto simp: obj_at'_def projectKOs state_refs_of'_def pred_tcb_at'_def tcb_bound_refs'_def
+
+              dest!: symreftype_inverse')[1]
+apply (frule ksReadyQueues_asrt_ksReadyQueues_head_end)
+apply (frule invs_pspace_aligned')
+apply (frule invs_pspace_distinct')
+apply (frule (2) ksReadyQueues_asrt_ksReadyQueues_head_end_tcb_at')
+
+apply safe
```
Comment (lsf37) [inline proof/crefine/AARCH64/Recycle_C.thy:1078]: something is off in this part, it's either indentation or something is being applied after `auto`

File: proof/crefine/AARCH64/IpcCancel_C.thy [hunk 4]
```diff
@@ -2921,22 +2558,19 @@ lemma cancelIPC_ccorres_helper:
...
-           subgoal by simp
-          apply (erule (1) map_to_ko_atI')
-         apply (simp add: heap_to_user_data_def Let_def)
-        \<comment> \<open>queue relation\<close>
-         apply (rule cready_queues_relation_null_queue_ptrs, assumption+)
-         subgoal by (clarsimp simp: comp_def)
+           apply (erule ctcb_relation_null_ep_ptrs)
+           subgoal by (clarsimp simp: comp_def)
+       \<comment> \<open>ep relation\<close>
+          apply (rule cpspace_relation_ep_update_ep, assumption+)
```
Comment (lsf37) [inline proof/crefine/AARCH64/IpcCancel_C.thy:2564]: indent

File: proof/crefine/ARM/ADT_C.thy [hunk 5]
```diff
@@ -769,42 +792,92 @@ lemma cthread_state_rel_imp_eq:
...
+   apply (clarsimp simp: option_to_ctcb_ptr_def option_to_ptr_def option_to_0_def)
+   apply (rule tcb.expand)
+   apply clarsimp
+   apply (intro conjI)
+          apply (simp add: cthread_state_rel_imp_eq)
+         apply (simp add: cfault_rel_imp_eq)
+        apply (case_tac "tcbBoundNotification atcb'", case_tac "tcbBoundNotification atcb"; clarsimp)
+        apply (clarsimp split: option.splits)
+     apply (case_tac "tcbSchedPrev atcb'"; case_tac "tcbSchedPrev atcb"; clarsimp)
+       apply (force dest!: kernel.tcb_at_not_NULL)
```
Comment (lsf37) [inline proof/crefine/ARM/ADT_C.thy:872]: indent

File: proof/crefine/ARM/Recycle_C.thy [hunk 6]
```diff
@@ -816,11 +804,18 @@ lemma cancelBadgedSends_ccorres:
            apply (frule_tac x=word in tcbSchedEnqueue_cslift_precond_discharge)
               apply simp
              subgoal by clarsimp
+             subgoal by clarsimp
+             subgoal by clarsimp
             subgoal by clarsimp
            subgoal by clarsimp
+             subgoal by clarsimp
```
Comment (lsf37) [inline proof/crefine/ARM/Recycle_C.thy:811]: indent (probably on all architectures)

File: proof/crefine/ARM/Schedule_C.thy [hunk 7]
```diff
@@ -159,6 +171,50 @@ lemma switchToThread_ccorres':
...
+    apply assumption
+   apply (clarsimp simp: getQueue_def gets_exs_valid)
+  apply clarsimp
+  apply (drule spec, erule mp)
+  apply (erule rf_sr_ctcb_queue_relation)
+   apply (simp add: maxDom_to_H maxPrio_to_H)+
+  done
+
+(* FIXME: replace the version of this rule in Schedule_R with this more general version *)
+lemma lookupBitmapPriority_obj_at':
```
Comment (lsf37) [inline proof/crefine/ARM/Schedule_C.thy:200]: Is this an old FIXME that was moved or something new we should resolve now?

File: proof/crefine/ARM_HYP/ADT_C.thy [hunk 8]
```diff
@@ -851,36 +875,78 @@ lemma carch_tcb_relation_imp_eq:
...
+   apply (clarsimp simp: option_to_ctcb_ptr_def option_to_ptr_def option_to_0_def)
+   apply (rule tcb.expand)
+   apply clarsimp
+   apply (intro conjI)
+          apply (simp add: cthread_state_rel_imp_eq)
+         apply (simp add: cfault_rel_imp_eq)
+        apply (case_tac "tcbBoundNotification atcb'", case_tac "tcbBoundNotification atcb"; clarsimp)
+        apply (clarsimp split: option.splits)
+     apply (case_tac "tcbSchedPrev atcb'"; case_tac "tcbSchedPrev atcb"; clarsimp)
+       apply (force dest!: kernel.tcb_at_not_NULL)
```
Comment (lsf37) [inline proof/crefine/ARM_HYP/ADT_C.thy:941]: indent (also other architectures)

File: proof/crefine/ARM_HYP/Recycle_C.thy [hunk 9]
```diff
@@ -1200,8 +1195,21 @@ lemma cancelBadgedSends_ccorres:
...
+
+apply (auto simp: obj_at'_def projectKOs state_refs_of'_def pred_tcb_at'_def tcb_bound_refs'_def
+
+              dest!: symreftype_inverse')[1]
+apply (frule ksReadyQueues_asrt_ksReadyQueues_head_end)
+apply (frule invs_pspace_aligned')
+apply (frule invs_pspace_distinct')
+apply (frule (2) ksReadyQueues_asrt_ksReadyQueues_head_end_tcb_at')
+
+apply safe
```
Comment (lsf37) [inline proof/crefine/ARM_HYP/Recycle_C.thy:1211]: (same as above)

File: proof/crefine/RISCV64/ADT_C.thy [hunk 10]
```diff
@@ -753,12 +777,16 @@ lemma cthread_state_rel_imp_eq:
   apply (cases y, simp_all add: ThreadState_defs)+
   done
 
-lemma ksPSpace_valid_objs_tcbBoundNotification_nonzero:
-  "\<exists>s. ksPSpace s = ah \<and> no_0_obj' s \<and> valid_objs' s
-     \<Longrightarrow> map_to_tcbs ah p = Some tcb \<Longrightarrow> tcbBoundNotification tcb \<noteq> Some 0"
+(* FIXME: choose better name for this lemma *)
+lemma ksPSpace_valid_objs_bound_objs_nonzero:
```
Comment (lsf37) [inline proof/crefine/RISCV64/ADT_C.thy:781]: I'm actually fine with the name for this lemma. From my side we could drop this FIXME.

File: proof/refine/AARCH64/TcbAcc_R.thy [hunk 11]
```diff
@@ -4390,12 +5311,416 @@ lemma sts_utr[wp]:
...
+      clarsimp dest: last_in_set
+               simp: valid_sched_pointers_def opt_map_def list_queue_relation_def tcbQueueEmpty_def
+                     queue_end_valid_def inQ_def opt_pred_def obj_at'_def
+              split: if_splits option.splits;
+      fastforce)
+
+(* FIXME: find a suitable place for the following lemmas regarding setObject *)
+lemma koTypeOf_injectKO:
+  fixes v :: "'a :: pspace_storable" shows
+  "koTypeOf (injectKO v) = koType TYPE('a)"
```
Comment (lsf37) [inline proof/refine/AARCH64/TcbAcc_R.thy:5473]: These should usually go into KHeap_R or maybe Bits_R

File: proof/refine/AARCH64/orphanage/Orphanage.thy [hunk 12]
```diff
@@ -610,14 +583,33 @@ crunches updateASIDPoolEntry, Arch.switchToThread
...
+lemma all_queued_tcb_ptrs_machine_state[simp]:
+  "all_queued_tcb_ptrs (s\<lparr>ksMachineState := m\<rparr>) = all_queued_tcb_ptrs s"
+  by (simp add: all_queued_tcb_ptrs_def)
+
+lemma all_queued_tcb_ptrs_arch_state[simp]:
+  "all_queued_tcb_ptrs (s\<lparr>ksArchState := as\<rparr>) = all_queued_tcb_ptrs s"
+  by (simp add: all_queued_tcb_ptrs_def)
+
+lemma setObject_vcpu_all_queued_tcb_ptrs[wp]:
+  "setObject ptr (vcpu::vcpu) \<lbrace>\<lambda>s. P (t \<in> (all_queued_tcb_ptrs s))\<rbrace>"
```
Comment (lsf37) [inline proof/refine/AARCH64/orphanage/Orphanage.thy:595]:
```suggestion
  "setObject ptr (vcpu::vcpu) \<lbrace>\<lambda>s. P (t \<in> all_queued_tcb_ptrs s)\<rbrace>"
```

File: proof/refine/AARCH64/orphanage/Orphanage.thy [hunk 13]
```diff
@@ -610,14 +583,33 @@ crunches updateASIDPoolEntry, Arch.switchToThread
...
+  apply (simp add: all_queued_tcb_ptrs_def)
+  apply (rule setObject_vcpu_obj_at'_no_vcpu)
+  done
+
+lemma setASID_all_queued_tcb_ptrs[wp]:
+  "setObject ptr (ap::asidpool) \<lbrace>\<lambda>s. P (t \<in> (all_queued_tcb_ptrs s))\<rbrace>"
```
Comment (lsf37) [inline proof/refine/AARCH64/orphanage/Orphanage.thy:601]:
```suggestion
  "setObject ptr (ap::asidpool) \<lbrace>\<lambda>s. P (t \<in> all_queued_tcb_ptrs s)\<rbrace>"
```

File: proof/infoflow/refine/RISCV64/Example_Valid_StateH.thy [hunk 14]
```diff
@@ -3421,9 +3425,16 @@ lemma s0H_invs:
   apply (rule conjI)
    apply (clarsimp simp: irqs_masked'_def s0H_internal_def maxIRQ_def timer_irq_def irqInvalid_def)
   apply (rule conjI)
-   apply (clarsimp simp: valid_queues'_def obj_at'_def s0H_internal_def inQ_def)
-   apply (frule kh0H_dom_tcb)
-   apply (elim disjE, (clarsimp simp: kh0H_obj_def)+)[1]
+   apply (clarsimp simp: sym_heap_def opt_map_def projectKOs split: option.splits)
+   using kh0H_dom_tcb
+   apply (fastforce simp: kh0H_obj_def)
```
Comment (corlewis) [inline proof/infoflow/refine/RISCV64/Example_Valid_StateH.thy:3430]: Is it possible to avoid these `using` steps in the middle of the apply proof?

File: proof/crefine/RISCV64/ADT_C.thy (hunk 10 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/ADT_C.thy:781]: I think my concern was referring to the `tcbSchedPrev/Next` field with the term "bound". But I can remove this if it's still OK. Maybe `ksPSpace_valid_objs_refs_nonzero` would be better, if we do want to change it?

Comment (lsf37) [reply proof/crefine/RISCV64/ADT_C.thy:781]: You're right, `ksPSpace_valid_objs_refs_nonzero` is a better name.

File: proof/refine/ARM/Retype_R.thy [hunk 15]
```diff
@@ -1184,6 +1189,144 @@ lemma update_gs_simps[simp]:
...
+  fixes x v
+  assumes   vs': "pspace_aligned' s'" "pspace_distinct' s'"
+  assumes   pn': "pspace_no_overlap' ptr sz s'"
+  assumes    ko: "makeObjectKO dev ty = Some ko"
+  assumes cover: "range_cover ptr sz (obj_bits_api (APIType_map2 ty) us) n"
+  assumes num_r: "m = 2 ^ (obj_bits_api (APIType_map2 ty) us - objBitsKO ko) * n"
+  shows
+  "ksPSpace s' x = Some v \<Longrightarrow>
+    foldr (\<lambda>addr. data_map_insert addr ko) (new_cap_addrs m ptr ko) (ksPSpace s') x
+      = Some v"
```
Comment (lsf37) [inline proof/refine/ARM/Retype_R.thy:1202]: +2 indent for the goal text

File: proof/refine/ARM/StateRelation.thy [hunk 16]
```diff
@@ -385,11 +409,55 @@ where
...
+abbreviation ready_queue_relation ::
+  "Deterministic_A.domain \<Rightarrow> Structures_A.priority
+   \<Rightarrow> Deterministic_A.ready_queue \<Rightarrow> ready_queue
+   \<Rightarrow> (obj_ref \<rightharpoonup> obj_ref) \<Rightarrow> (obj_ref \<rightharpoonup> obj_ref)
+   \<Rightarrow> (obj_ref \<Rightarrow> bool) \<Rightarrow> bool"
+  where
+  "ready_queue_relation d p q q' nexts prevs flag \<equiv>
+     list_queue_relation q q' nexts prevs
+     \<and> (\<forall>t. flag t \<longleftrightarrow> t \<in> set q)
+     \<and> (d > maxDomain \<or> p > maxPriority \<longrightarrow> tcbQueueEmpty q')"
```
Comment (lsf37) [inline proof/refine/ARM/StateRelation.thy:442]: Looks like I missed that one before -- it should be a definition, not an abbreviation, because it is unlikely that the term on the right hand side is going to stay in exactly this form after `simp` and other tactics have run. This change is probably necessary for all architectures and might need a few additional unfoldings.

File: proof/refine/ARM/TcbAcc_R.thy [hunk 17]
```diff
@@ -84,54 +82,155 @@ lemma l1IndexToPrio_wordRadix_mask[simp]:
...
+  apply (case_tac "tcb_state tcb"; simp)
   done
 
-lemma valid_objs_valid_tcbE: "\<And>s t.\<lbrakk> valid_objs' s; tcb_at' t s; \<And>tcb. valid_tcb' tcb s \<Longrightarrow> R s tcb \<rbrakk> \<Longrightarrow> obj_at' (R s) t s"
+lemma pspace_relation_tcb_at':
+  assumes p: "pspace_relation (kheap a) (ksPSpace c)"
+  assumes t: "tcb_at t a"
+  assumes aligned: "pspace_aligned' c"
+  assumes distinct: "pspace_distinct' c"
+  shows "tcb_at' t c" using assms
```
Comment (lsf37) [inline proof/refine/ARM/TcbAcc_R.thy:117]: the `using` should really be on the next line

File: proof/refine/ARM/StateRelation.thy (hunk 16 above)
Comment (michaelmcinerney) [reply proof/refine/ARM/StateRelation.thy:442]: I added this fairly late in the game, just to cut down on repetition that appears between `ready_queues_relation` and `ksReadyQueues_asrt` and to make my intentions a bit clearer in the definition I give to `ksReadyQueues_asrt`. I can certainly make this a definition, but seeing that its only appearances are inside other definitions, I don't think we get any unfavourable simplification happening to these bits

File: proof/refine/ARM/StateRelation.thy [hunk 18]
```diff
@@ -192,13 +196,20 @@ where
   \<and> tcb_bound_notification tcb = tcbBoundNotification tcb'
   \<and> tcb_mcpriority tcb = tcbMCP tcb'"
 
+\<comment> \<open>
+  A pair of objects @{term "(obj, obj')"} should satisfy the follow relation when, under further
```
Comment (corlewis) [inline proof/refine/ARM/StateRelation.thy:200]:
```suggestion
  A pair of objects @{term "(obj, obj')"} should satisfy the following relation when, under further
```
Other architectures as well.

Comment (corlewis) [reply proof/refine/ARM/StateRelation.thy:200]: And thanks for the comment, it will be helpful if/when in the future we're confused about why it doesn't handle TCBs.

File: proof/refine/ARM/StateRelation.thy [hunk 19]
```diff
@@ -192,13 +196,20 @@ where
...
+  mild assumptions, a @{term corres_underlying} lemma for @{term "set_object obj"}
+  and @{term "setObject obj'"} can be stated: see setObject_other_corres below.
```
Comment (corlewis) [inline proof/refine/ARM/StateRelation.thy:202]: Should this be "see setObject_other_corres in KHeap_R"?

Comment (michaelmcinerney) [reply proof/refine/ARM/StateRelation.thy:202]: Yup! Will change

File: proof/refine/ARM/Tcb_R.thy [hunk 20]
```diff
@@ -349,10 +350,12 @@ lemma invokeTCB_WriteRegisters_corres:
               apply simp
              apply (wp+)[2]
            apply ((wp hoare_weak_lift_imp restart_invs'
-                 | strengthen valid_sched_weak_strg einvs_valid_etcbs
-                              invs_valid_queues' invs_queues invs_weak_sch_act_wf
-                 | clarsimp simp: invs_def valid_state_def valid_sched_def invs'_def valid_state'_def
-                            dest!: global'_no_ex_cap idle_no_ex_cap)+)[2]
+               | strengthen valid_sched_weak_strg einvs_valid_etcbs
```
Comment (lsf37) [inline proof/refine/ARM/Tcb_R.thy:353]: hard to see in the diff, but the indent seems off in this one

File: proof/refine/ARM_HYP/ArchAcc_R.thy [hunk 21]
```diff
@@ -1683,5 +1690,166 @@ lemma dmo_clearMemory_invs'[wp]:
   apply fastforce
   done
 
+lemma pspace_aligned_cross:
+  "\<lbrakk> pspace_aligned s; pspace_relation (kheap s) (ksPSpace s') \<rbrakk> \<Longrightarrow> pspace_aligned' s'"
```
Comment (lsf37) [inline proof/refine/ARM_HYP/ArchAcc_R.thy:1694]: Technically speaking, these lemmas should probably not be in an Arch theory, but I think we can sort that out in the arch split. The existing ones are not in consistent places either.

File: proof/refine/ARM_HYP/CNodeInv_R.thy [hunk 22]
```diff
@@ -8590,6 +8601,14 @@ lemma cteMove_urz [wp]:
   apply auto
   done
 
+crunches updateMDB
+  for valid_bitmaps[wp]: valid_bitmaps
+  (rule: valid_bitmaps_lift)
+
+lemma haskell_assert_inv:
+  "haskell_assert Q L \<lbrace>P\<rbrace>"
+  by wpsimp
```
Comment (lsf37) [inline proof/refine/ARM_HYP/CNodeInv_R.thy:8610]: This is another candidate for arch split cleanup. I was about to suggest to move it to Lib, but I think that will break a whole lot of stuff, because some places rely on it in weird ways. Maybe add a `FIXME: arch_split` here so that we see it then.

File: proof/refine/ARM_HYP/StateRelation.thy [hunk 23]
```diff
@@ -409,11 +433,55 @@ where
...
+  "Deterministic_A.domain \<Rightarrow> Structures_A.priority
+   \<Rightarrow> Deterministic_A.ready_queue \<Rightarrow> ready_queue
+   \<Rightarrow> (obj_ref \<rightharpoonup> obj_ref) \<Rightarrow> (obj_ref \<rightharpoonup> obj_ref)
+   \<Rightarrow> (obj_ref \<Rightarrow> bool) \<Rightarrow> bool"
+  where
+  "ready_queue_relation d p q q' nexts prevs flag \<equiv>
+     list_queue_relation q q' nexts prevs
+     \<and> (\<forall>t. flag t \<longleftrightarrow> t \<in> set q)
+     \<and> (d > maxDomain \<or> p > maxPriority \<longrightarrow> tcbQueueEmpty q')"
+
```
Comment (lsf37) [inline proof/refine/ARM_HYP/StateRelation.thy:467]: (see ARM comment)

File: proof/refine/RISCV64/StateRelation.thy [hunk 24]
```diff
@@ -279,10 +298,55 @@ primrec sched_act_relation :: "Deterministic_A.scheduler_action \<Rightarrow> sc
...
+abbreviation ready_queue_relation ::
+  "Deterministic_A.domain \<Rightarrow> Structures_A.priority
+   \<Rightarrow> Deterministic_A.ready_queue \<Rightarrow> ready_queue
+   \<Rightarrow> (obj_ref \<rightharpoonup> obj_ref) \<Rightarrow> (obj_ref \<rightharpoonup> obj_ref)
+   \<Rightarrow> (obj_ref \<Rightarrow> bool) \<Rightarrow> bool"
+  where
+  "ready_queue_relation d p q q' nexts prevs flag \<equiv>
+     list_queue_relation q q' nexts prevs
+     \<and> (\<forall>t. flag t \<longleftrightarrow> t \<in> set q)
+     \<and> (d > maxDomain \<or> p > maxPriority \<longrightarrow> tcbQueueEmpty q')"
```
Comment (lsf37) [inline proof/refine/RISCV64/StateRelation.thy:331]: (see ARM comment)

File: proof/refine/ARM/StateRelation.thy (hunk 16 above)
Comment (lsf37) [reply proof/refine/ARM/StateRelation.thy:442]: We could make it an input-only abbreviation -- as a pure abbreviation it doesn't really make sense, it can only work when it is untouched. Actually just unfolding the outer definition could already make the term inapplicable for contraction. As an input abbreviation you'd still get the name to use in other definitions, but would not get any new unfoldings.

File: proof/refine/X64/Retype_R.thy [hunk 25]
```diff
@@ -1193,6 +1193,149 @@ lemma update_gs_simps[simp]:
...
+  fixes x v
+  assumes   vs': "pspace_aligned' s'" "pspace_distinct' s'"
+  assumes   pn': "pspace_no_overlap' ptr sz s'"
+  assumes    ko: "makeObjectKO dev ty = Some ko"
+  assumes cover: "range_cover ptr sz (obj_bits_api (APIType_map2 ty) us) n"
+  assumes num_r: "m = 2 ^ (obj_bits_api (APIType_map2 ty) us - objBitsKO ko) * n"
+  shows
+  "ksPSpace s' x = Some v \<Longrightarrow>
+    foldr (\<lambda>addr. data_map_insert addr ko) (new_cap_addrs m ptr ko) (ksPSpace s') x
+      = Some v"
```
Comment (lsf37) [inline proof/refine/X64/Retype_R.thy:1206]: goal indent

File: proof/refine/X64/StateRelation.thy [hunk 26]
```diff
@@ -408,11 +427,55 @@ where
...
+lemma list_queue_relation_nil:
+  "list_queue_relation ts q nexts prevs \<Longrightarrow> ts = [] \<longleftrightarrow> tcbQueueEmpty q"
+  by (fastforce dest: heap_path_head simp: tcbQueueEmpty_def list_queue_relation_def)
+
+abbreviation ready_queue_relation ::
+  "Deterministic_A.domain \<Rightarrow> Structures_A.priority
+   \<Rightarrow> Deterministic_A.ready_queue \<Rightarrow> ready_queue
+   \<Rightarrow> (obj_ref \<rightharpoonup> obj_ref) \<Rightarrow> (obj_ref \<rightharpoonup> obj_ref)
+   \<Rightarrow> (obj_ref \<Rightarrow> bool) \<Rightarrow> bool"
+  where
```
Comment (lsf37) [inline proof/refine/X64/StateRelation.thy:456]: (see ARM comment)

**Review by lsf37 — COMMENTED** [review]
This is looking good from my side (modulo the minor text/indent nitpicks above). Overall I think the proofs are getting quite a bit nicer with this. And I'm really looking forward to a finished arch split on Refine :-)

File: proof/refine/ARM/Detype_R.thy [hunk 27]
```diff
@@ -960,52 +1023,71 @@ lemma deleteObjects_corres:
...
   apply fastforce
   done
-
 end
 
 context delete_locale begin interpretation Arch . (*FIXME: arch_split*)
 
+lemma live_idle_untyped_range':
+  "\<lbrakk> ko_wp_at' P p s' \<or> p = idle_thread_ptr; \<And>ko. P ko \<Longrightarrow> live' ko \<rbrakk>
+   \<Longrightarrow> p \<notin> base_bits"
```
Comment (corlewis) [inline proof/refine/ARM/Detype_R.thy:1071]: This lemma looks a little bit strange to me. I feel like it would be more natural if the assumption was just in terms of `live'`, with any specific use cases that want to show a different `ko_wp_at'` condition then using `ko_wp_at'_weakenE` separately.

File: proof/refine/ARM/Finalise_R.thy [hunk 28]
```diff
@@ -2725,8 +2709,42 @@ crunch cte_wp_at'[wp]: prepareThreadDelete "cte_wp_at' P p"
 crunch valid_cap'[wp]: prepareThreadDelete "valid_cap' cap"
 crunch invs[wp]: prepareThreadDelete "invs'"
 
+crunches prepareThreadDelete
+  for sched_projs_obj_at'[wp]:
+    "\<lambda>s. obj_at' (\<lambda>tcb. tcbSchedNext tcb = None \<and> tcbSchedPrev tcb = None) t s"
```
Comment (corlewis) [inline proof/refine/ARM/Finalise_R.thy:2714]: Very minor, but this name doesn't seem quite right to me. The following lemmas use `tcbSchedNext_tcbSchedPrev_None_obj_at'`, which is long but does feel more accurate.

Comment (corlewis) [reply proof/refine/ARM/Finalise_R.thy:2714]: And probably not worth changing now, but do you think `tcbSchedNext tcb = None ∧ tcbSchedPrev tcb = None` could be worth an abbreviation? Or is not used that much apart from here.

Comment (corlewis) [reply proof/refine/ARM/Finalise_R.thy:2714]: > Very minor, but this name doesn't seem quite right to me. The following lemmas use `tcbSchedNext_tcbSchedPrev_None_obj_at'`, which is long but does feel more accurate.

Ah, there's also at least one use of `tcbSchedNext_tcbSchedPrev_None` as a suffix, which is a little bit shorter. I guess I don't mind that much between the different names but being consistent would be good and can also help `crunch`.

File: proof/crefine/ARM/Schedule_C.thy (hunk 7 above)
Comment (michaelmcinerney) [reply proof/crefine/ARM/Schedule_C.thy:200]: This is old. I will see how easy it would be do solve this FIXME and will do it if it's not too bad

File: proof/infoflow/refine/RISCV64/Example_Valid_StateH.thy (hunk 14 above)
Comment (michaelmcinerney) [reply proof/infoflow/refine/RISCV64/Example_Valid_StateH.thy:3430]: I'll check. But is there anything wrong with using `using` in an apply proof? I thought that was absolutely fine. I try to avoid it, generally, but I have also been told that I should use `using` instead of `apply (insert blah)`

File: proof/refine/ARM/Detype_R.thy (hunk 27 above)
Comment (michaelmcinerney) [reply proof/refine/ARM/Detype_R.thy:1071]: I think this lemma is straight from `rt`. I actually thought it should have been in the separate PR I made for `Detype_R` but it's possible that it wasn't required for that PR and was required only for this PR. I will make this change, though

File: proof/refine/ARM/IpcCancel_R.thy [hunk 29]
```diff
@@ -1225,190 +1174,57 @@ lemma setNotification_weak_sch_act_wf[wp]:
...
-lemma setEndpoint_valid_inQ_queues[wp]:
-  "\<lbrace>valid_inQ_queues\<rbrace> setEndpoint ptr ep \<lbrace>\<lambda>rv. valid_inQ_queues\<rbrace>"
-  apply (unfold setEndpoint_def)
-  apply (rule setObject_ep_pre)
-  apply (simp add: valid_inQ_queues_def)
-  apply (wp hoare_Ball_helper hoare_vcg_all_lift setObject_queues_unchanged[OF updateObject_ep_inv])
-  apply simp
-  done
+context begin
+interpretation Arch .
```
Comment (corlewis) [inline proof/refine/ARM/IpcCancel_R.thy:1188]: Trivial nitpick
```suggestion
context begin interpretation Arch .
```

File: proof/refine/ARM/IpcCancel_R.thy [hunk 30]
```diff
@@ -1900,39 +1377,46 @@ lemma ep_cancel_corres_helper:
...
-    apply (auto elim: obj_at'_weakenE simp: valid_tcb_state'_def)
+         apply (wpsimp wp: sts_st_tcb_at')
+        apply (wpsimp wp: sts_valid_objs' | strengthen valid_objs'_valid_tcbs')+
+       apply fastforce
+      apply (wpsimp wp: hoare_vcg_const_Ball_lift set_thread_state_runnable_valid_queues
+                        sts_st_tcb_at' sts_valid_objs'
+                  simp: valid_tcb_state'_def)+
   done
 
+
```
Comment (corlewis) [inline proof/refine/ARM/IpcCancel_R.thy:1403]:
```suggestion
```

File: proof/refine/ARM/IpcCancel_R.thy [hunk 31]
```diff
@@ -1954,22 +1438,23 @@ proof -
...
-    apply (rule hoare_name_pre_state)
+      apply ((wpsimp wp: hoare_vcg_const_Ball_lift mapM_x_wp' sts_st_tcb' sts_valid_objs'
+                   simp: valid_tcb_state'_def
+              | strengthen valid_objs'_valid_tcbs')+)[3]
+     apply fastforce
     apply (wp hoare_vcg_const_Ball_lift set_ep_valid_objs'
         | (clarsimp simp: valid_ep'_def)
-        | (drule (1) bspec, clarsimp simp: valid_pspace'_def valid_tcb'_def valid_ep'_def elim!: valid_objs_valid_tcbE))+
+        | (drule (1) bspec, clarsimp simp: valid_pspace'_def valid_tcb'_def valid_ep'_def
+        | strengthen valid_objs'_valid_tcbs'))+
```
Comment (corlewis) [inline proof/refine/ARM/IpcCancel_R.thy:1451]: Feel free to ignore, but since you've already restyled some of this lemma you could do this apply step as well.

File: proof/refine/ARM/KHeap_R.thy [hunk 32]
```diff
@@ -917,7 +960,7 @@ lemma setObject_other_corres:
   apply (clarsimp simp add: caps_of_state_after_update cte_wp_at_after_update
                             swp_def fun_upd_def obj_at_def)
   apply (subst conj_assoc[symmetric])
-  apply (rule conjI[rotated])
+  apply (extract_conjunct \<open>match conclusion in "ghost_relation _ _ _" \<Rightarrow> -\<close>)
```
Comment (corlewis) [inline proof/refine/ARM/KHeap_R.thy:963]: Thanks for making more use of `extract_conjunct` throughout this work, it's definitely more maintainable than the bare `rule conjI`s

File: proof/refine/ARM/KHeap_R.thy [hunk 33]
```diff
@@ -2148,6 +2158,29 @@ lemma setEndpoint_ct':
   apply (wp updateObject_default_inv | simp)+
   done
 
+lemma aligned_distinct_obj_atI':
+  "\<lbrakk> ksPSpace s x = Some ko; pspace_aligned' s; pspace_distinct' s; ko = injectKO v \<rbrakk>
+      \<Longrightarrow> ko_at' v x s"
```
Comment (corlewis) [inline proof/refine/ARM/KHeap_R.thy:2163]:
```suggestion
  "\<lbrakk> ksPSpace s x = Some ko; pspace_aligned' s; pspace_distinct' s; ko = injectKO v \<rbrakk>
   \<Longrightarrow> ko_at' v x s"
```

File: proof/refine/ARM/Finalise_R.thy (hunk 28 above)
Comment (michaelmcinerney) [reply proof/refine/ARM/Finalise_R.thy:2714]: I think there is some inconsistency here. I'll try to clean it up. I think the `tcbSchedNext tcb = None ∧ tcbSchedPrev tcb = None` bit is used only for finalising TCBs, so I'm not sure it would make for a good abbreviation

File: proof/refine/ARM/Schedule_R.thy [hunk 34]
```diff
@@ -469,19 +388,88 @@ lemma ct_idle_or_in_cur_domain'_lift2:
...
+  by (wpsimp wp: hoare_vcg_if_lift2 hoare_vcg_imp_lift')
+
+lemma tcbQueued_update_valid_mdb'[wp]:
+  "\<lbrace>valid_mdb' and tcb_at' tcbPtr\<rbrace> threadSet (tcbQueued_update f) tcbPtr \<lbrace>\<lambda>_. valid_mdb'\<rbrace>"
+  apply (wpsimp wp: threadSet_mdb')
+  apply (fastforce simp: obj_at'_def valid_tcb'_def tcb_cte_cases_def cteSizeBits_def)
+  done
+
+lemma valid_mdb'_ksReadyQueues_update[simp]:
+  "valid_mdb' (ksReadyQueues_update f s) = valid_mdb' s"
```
Comment (corlewis) [inline proof/refine/ARM/Schedule_R.thy:440]: Very minor but this and the following lemmas could be moved to InvariantUpdates_H.

File: proof/refine/ARM/Schedule_R.thy [hunk 35]
```diff
@@ -631,50 +621,96 @@ crunch ksIdleThread[wp]: tcbSchedDequeue "\<lambda>s. P (ksIdleThread s)"
...
+  apply (drule_tac x="tcbDomain ko" in spec)
+  apply (drule_tac x="tcbPriority ko" in spec)
+  apply clarsimp
+  apply (drule_tac x=t in bspec)
+   apply (fastforce simp: inQ_def in_opt_pred obj_at'_def projectKOs opt_map_red)
+  apply (fastforce dest: st_tcb_at_runnable_cross simp: obj_at'_def projectKOs st_tcb_at'_def)
+  done
+
+lemma valid_sched_valid_queues[elim!]:
+  "valid_sched s \<Longrightarrow> valid_queues s"
```
Comment (corlewis) [inline proof/refine/ARM/Schedule_R.thy:672]: FIXME: move?

File: proof/refine/ARM/TcbAcc_R.thy [hunk 36]
```diff
@@ -84,54 +82,155 @@ lemma l1IndexToPrio_wordRadix_mask[simp]:
...
+  apply (clarsimp simp: is_tcb tcb_relation_cut_def)
+  apply (simp split: kernel_object.split_asm)
+  apply (drule(2) aligned_distinct_obj_atI'[where 'a=tcb], simp)
+  apply (erule obj_at'_weakenE)
+  apply simp
+  done
+
+lemma tcb_at_cross:
+  "\<lbrakk> tcb_at t s; pspace_aligned s; pspace_distinct s;
+     pspace_relation (kheap s) (ksPSpace s') \<rbrakk> \<Longrightarrow> tcb_at' t s'"
```
Comment (corlewis) [inline proof/refine/ARM/TcbAcc_R.thy:129]:
```suggestion
  "\<lbrakk> tcb_at t s; pspace_aligned s; pspace_distinct s;
     pspace_relation (kheap s) (ksPSpace s') \<rbrakk>
   \<Longrightarrow> tcb_at' t s'"
```

File: proof/infoflow/refine/ADT_IF_Refine.thy [hunk 37]
```diff
@@ -304,9 +304,12 @@ lemma kernel_entry_if_corres:
       apply (rule corres_split)
          apply simp
          apply (rule threadset_corresT)
-            apply (erule arch_tcb_context_set_tcb_relation)
-           apply (clarsimp simp: tcb_cap_cases_def)
-          apply (rule allI[OF ball_tcb_cte_casesI]; clarsimp)
+               apply (erule arch_tcb_context_set_tcb_relation)
```
Comment (Xaphiosis) [inline proof/infoflow/refine/ADT_IF_Refine.thy:307]: was the indentation wrong here previously? it looks like `threadset_corresT` generates 6 subgoals whereas previously it generated 3?

File: spec/haskell/src/SEL4/Kernel/Thread.lhs [hunk 38]
```diff
@@ -424,6 +427,10 @@ To switch to a new thread, we call the architecture-specific thread switch funct
 
 > switchToThread :: PPtr TCB -> Kernel ()
 > switchToThread thread = do
+>         runnable <- isRunnable thread
+>         assert runnable "thread must be runnable"
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Kernel/Thread.lhs:431]: For consistency: start with uppercase like the other assertions

Comment (Xaphiosis) [reply spec/haskell/src/SEL4/Kernel/Thread.lhs:431]: actually, there doesn't seem to be consistency, looks like old stuff all starts with uppercase, and new stuff with lowercase; @lsf37 thoughts?

File: spec/haskell/src/SEL4/Kernel/Thread.lhs [hunk 39]
```diff
@@ -597,41 +605,135 @@ The following two functions place a thread at the beginning or end of its priori
...
+>     q <- if tcbQueueEmpty queue
+>              then return $ queue { tcbQueueHead = Just tcbPtr }
+>              else do
+>                  threadSet (\t -> t { tcbSchedPrev = tcbQueueEnd queue }) tcbPtr
+>                  threadSet (\t -> t { tcbSchedNext = Just tcbPtr }) (fromJust $ tcbQueueEnd queue)
+>                  return $ queue
+
+>     return $ q { tcbQueueEnd = Just tcbPtr}
+
+Insert a thread into the middle of a queue, immediately before afterPtr, where afterPtr is not the head of the queue
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Kernel/Thread.lhs:633]: very useful, thanks (same for the other comments around here)

File: spec/haskell/src/SEL4/Object/Notification.lhs [hunk 40]
```diff
@@ -131,6 +131,7 @@ If a notification object is deleted, then pending receive operations must be can
 
 > cancelAllSignals :: PPtr Notification -> Kernel ()
 > cancelAllSignals ntfnPtr = do
+>         stateAssert ksReadyQueues_asrt "asserts several properties about ksReadyQueues"
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Object/Notification.lhs:134]: I still think these "asserts several properties ..." assertions are a bit noisy (don't provide any info that the `ksReadyQueues_asrt` already says), but it's probably not wise to get into that again, I think it's better than the last time I saw them

Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/Notification.lhs:134]: Ah I did actually remove these comments in the `rt` version after you suggested it. I think there was some mixup with the commits at some stage and I lost some work on the `master` branch, which I then redid. Maybe this was part of it and I missed it. Still happy to just remove the comment entirely and have it as just `""` if that's preferable

File: proof/refine/AARCH64/Invariants_H.thy [hunk 41]
```diff
@@ -194,7 +210,10 @@ definition state_refs_of' :: "kernel_state \<Rightarrow> obj_ref \<Rightarrow> (
 primrec live0' :: "Structures_H.kernel_object \<Rightarrow> bool" where
   "live0' (KOTCB tcb) =
      (bound (tcbBoundNotification tcb) \<or>
-     (tcbState tcb \<noteq> Inactive \<and> tcbState tcb \<noteq> IdleThreadState) \<or>  tcbQueued tcb)"
+      tcbSchedPrev tcb \<noteq> None \<or>
+      tcbSchedNext tcb \<noteq> None \<or>
+      tcbState tcb \<noteq> Inactive \<and> tcbState tcb \<noteq> IdleThreadState \<or>
+      tcbQueued tcb)"
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/Invariants_H.thy:216]: I'm a bit surprised by this one: tcbQueued feels like it'll be linked to `tcbSched*`, but they're under an `∨`. Is the `tcbQueued` in Refine a flag only?

File: proof/refine/AARCH64/Invariants_H.thy [hunk 42]
```diff
@@ -883,31 +904,62 @@ where
...
 lemmas bitmapQ_defs = valid_bitmapQ_def valid_bitmapQ_except_def bitmapQ_def
                        bitmapQ_no_L2_orphans_def bitmapQ_no_L1_orphans_def
 
-definition
-  valid_queues' :: "kernel_state \<Rightarrow> bool"
-where
- "valid_queues' \<equiv> \<lambda>s. \<forall>d p t. obj_at' (inQ d p) t s \<longrightarrow> t \<in> set (ksReadyQueues s (d, p))"
+\<comment> \<open>
+  The tcbSchedPrev and tcbSchedNext fields of a TCB are used only to indicate membership in
+  one of the ready queues. \<close>
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/Invariants_H.thy:946]: probably copied from MCS, but I think agreed style is to not put `― ‹` on its own line

File: proof/refine/AARCH64/Invariants_H.thy [hunk 43]
```diff
@@ -838,10 +863,15 @@ where
...
- "inQ d p tcb \<equiv> tcbQueued tcb \<and> tcbPriority tcb = p \<and> tcbDomain tcb = d"
+definition inQ :: "domain \<Rightarrow> priority \<Rightarrow> tcb \<Rightarrow> bool" where
+  "inQ d p tcb \<equiv> tcbQueued tcb \<and> tcbPriority tcb = p \<and> tcbDomain tcb = d"
+
+lemma inQ_implies_tcbQueueds_of:
+  "(inQ domain priority |< tcbs_of' s') tcbPtr \<Longrightarrow> (tcbQueued |< tcbs_of' s') tcbPtr"
+  by (clarsimp simp: opt_map_def opt_pred_def inQ_def split: option.splits)
+
+defs ready_qs_runnable_def:
+  "ready_qs_runnable s \<equiv> \<forall>t. obj_at' tcbQueued t s \<longrightarrow> st_tcb_at' runnable' t s"
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/Invariants_H.thy:874]: I'm a bit confused, why does this have a separate `_def` here? does it clobber the existing one?

File: proof/refine/AARCH64/orphanage/Orphanage.thy [hunk 44]
```diff
@@ -545,60 +503,75 @@ lemma activateThread_no_orphans [wp]:
...
-  apply (wp setQueue_no_orphans_deq threadSet_no_orphans | clarsimp)+
-   apply (wp getObject_tcb_wp | clarsimp simp: threadGet_def)+
-  apply (drule obj_at_ko_at')
-  apply auto
+lemma tcbSchedDequeue_no_orphans[wp]:
+  "\<lbrace>\<lambda>s. no_orphans s \<and> \<not> is_active_tcb_ptr tcbPtr s \<and> tcb_at' tcbPtr s\<rbrace>
+   tcbSchedDequeue tcbPtr
+   \<lbrace>\<lambda>_. no_orphans\<rbrace>"
+  supply disj_not1[simp del]
+  apply (unfold no_orphans_disj almost_no_orphans_disj)
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/orphanage/Orphanage.thy:552]: why not `unfolding ...` and then the `supply`?

File: proof/refine/AARCH64/Invariants_H.thy (hunk 42 above)
Comment (corlewis) [reply proof/refine/AARCH64/Invariants_H.thy:946]: Oh, is it? I thought for multiline comments we generally did.

Comment (corlewis) [reply proof/refine/AARCH64/Invariants_H.thy:946]: Hmm, the style guide says to do `text ‹` on its own line, and I guess I was then extrapolating from that to `― ‹` as well.
https://github.com/seL4/l4v/blob/master/docs/Style.thy#L85

File: proof/refine/AARCH64/CNodeInv_R.thy [hunk 45]
```diff
@@ -8549,6 +8560,14 @@ lemma cteMove_urz [wp]:
   apply auto
   done
 
+crunches updateMDB
+  for valid_bitmaps[wp]: valid_bitmaps
+  (rule: valid_bitmaps_lift)
+
+lemma haskell_assert_inv:
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/CNodeInv_R.thy:8567]: this feels like a FIXME move

File: proof/refine/AARCH64/CNodeInv_R.thy [hunk 46]
```diff
@@ -5564,7 +5573,9 @@ lemma make_zombie_invs':
    apply (subgoal_tac "st_tcb_at' ((=) Inactive) p' s
                                \<and> obj_at' (Not \<circ> tcbQueued) p' s
                                \<and> bound_tcb_at' ((=) None) p' s
-                               \<and> ko_wp_at' (Not \<circ> hyp_live') p' s")
+                               \<and> ko_wp_at' (Not \<circ> hyp_live') p' s
+                               \<and> obj_at' (\<lambda>tcb. tcbSchedNext tcb = None
+                                                \<and> tcbSchedPrev tcb = None) p' s")
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/CNodeInv_R.thy:5578]: probably too late, but did anyone consider an abbreviation for an unqueued tcb i.e. the `tcbSchedNext tcb = None ∧ tcbSchedPrev tcb = None` above?

File: spec/haskell/src/SEL4/Object/Notification.lhs (hunk 40 above)
Comment (Xaphiosis) [reply spec/haskell/src/SEL4/Object/Notification.lhs:134]: yeah, if you already did that and lost it, maybe revive it. cheers

File: proof/refine/AARCH64/Invariants_H.thy (hunk 42 above)
Comment (Xaphiosis) [reply proof/refine/AARCH64/Invariants_H.thy:946]: I guess needs discussion and commitment into style guide, can take that out of this PR, @lsf can weigh in as well

File: proof/refine/AARCH64/InvariantUpdates_H.thy [hunk 47]
```diff
@@ -56,8 +57,9 @@ lemma invs_no_cicd'_machine:
 proof -
   show ?thesis
     apply (cases "ksSchedulerAction s")
-    apply (simp_all add: all_invs_but_ct_idle_or_in_cur_domain'_def valid_state'_def cur_tcb'_def ct_in_state'_def ct_idle_or_in_cur_domain'_def tcb_in_cur_domain'_def
-                    valid_queues_def valid_queues_no_bitmap_def bitmapQ_defs
+    apply (simp_all add: all_invs_but_ct_idle_or_in_cur_domain'_def valid_state'_def
+                    cur_tcb'_def ct_in_state'_def ct_idle_or_in_cur_domain'_def tcb_in_cur_domain'_def
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/InvariantUpdates_H.thy:61]: the `cur_tcb'_def` doesn't follow indent guidelines, should be right of `:` (it already didn't, but since we're changing the start of the command, might be worth a fix)

File: proof/refine/AARCH64/IpcCancel_R.thy [hunk 48]
```diff
@@ -539,9 +515,12 @@ lemma (in delete_one) cancelIPC_ReplyCap_corres:
...
        apply (rule threadset_corresT)
-          apply (simp add: tcb_relation_def fault_rel_optionation_def)
-         apply (simp add: tcb_cap_cases_def)
-        apply (simp add: tcb_cte_cases_def cteSizeBits_def)
+             apply (simp add: tcb_relation_def fault_rel_optionation_def)
+            apply (simp add: tcb_cap_cases_def)
+           apply (simp add: tcb_cte_cases_def cteSizeBits_def)
+          apply simp
+         apply simp
+        apply simp
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/IpcCancel_R.thy:523]: this can likely be shortened, at minimum all subgoals generated from the `rule` get a simp, so a `; simp add: ...` can get rid of at least 3

File: proof/refine/AARCH64/IpcCancel_R.thy [hunk 49]
```diff
@@ -1367,6 +1167,32 @@ crunches cancel_ipc
...
+  unfolding set_thread_state_def
+  apply (wpsimp wp: set_object_wp)
+  apply (clarsimp simp: ready_qs_distinct_def)
+  done
+
+lemma as_user_ready_qs_distinct[wp]:
+  "as_user tptr f \<lbrace>ready_qs_distinct\<rbrace>"
+  unfolding as_user_def
+  apply (wpsimp wp: set_object_wp)
+  apply (clarsimp simp: ready_qs_distinct_def)
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/IpcCancel_R.thy:1193]: I was wondering how we might be able to crunch these, but don't see it, can do the squash into a `by` though (2 applies)

File: proof/refine/AARCH64/Refine.thy [hunk 50]
```diff
@@ -669,10 +669,13 @@ lemma entry_corres:
...
-                             arch_tcb_context_set_def atcbContextSet_def)
-           apply (clarsimp simp: tcb_cap_cases_def cteSizeBits_def)
-          apply (clarsimp simp: tcb_cte_cases_def cteSizeBits_def)
+               apply (simp add: tcb_relation_def arch_tcb_relation_def
+                                arch_tcb_context_set_def atcbContextSet_def)
+              apply (clarsimp simp: tcb_cap_cases_def cteSizeBits_def)
+             apply (clarsimp simp: tcb_cte_cases_def cteSizeBits_def)
+            apply simp
+           apply simp
+          apply simp
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/Refine.thy:678]: this is similar to a `; simp` pattern I mentioned before (same rule, `threadset_corresT` I think)

File: proof/refine/AARCH64/Schedule_R.thy [hunk 51]
```diff
@@ -196,274 +191,257 @@ lemma schedule_choose_new_thread_sched_act_rct[wp]:
...
+    apply (clarsimp simp: in_opt_pred opt_map_red obj_at'_def)
+   apply (clarsimp simp: in_opt_pred opt_map_red obj_at'_def)
+  apply (intro conjI; clarsimp)
+
+   \<comment> \<open>the ready queue was originally empty\<close>
+   apply (force simp: inQ_def in_opt_pred fun_upd_apply opt_map_def obj_at'_def
+                      queue_end_valid_def prev_queue_head_def
+               split: if_splits option.splits)
+
+   \<comment> \<open>the ready queue was not originally empty\<close>
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/Schedule_R.thy:372]: this is a convoluted proof and looks like one of the harder ones, thanks for the comments. Some of the `cut_tac` above look like they might be forcefully working around something, but I think we can leave them

File: proof/refine/AARCH64/Invariants_H.thy (hunk 42 above)
Comment (lsf37) [reply proof/refine/AARCH64/Invariants_H.thy:946]: I guess the tension there is between what we do for `(*` and what we do for `text ‹`. `― ‹` is in between. I also hesitated at that one, tried it out on the same line, didn't like it either, and then left it for the same reason as Corey. Agreed that we should make this an issue for the style guide. (Maybe we should just not do multi-line `―` comments and use either `text` or `(* .. *)`)

File: proof/refine/AARCH64/TcbAcc_R.thy [hunk 52]
```diff
@@ -1832,56 +1994,700 @@ crunch typ_at'[wp]: removeFromBitmap "\<lambda>s. P (typ_at' T p s)"
...
+   \<Longrightarrow> (\<exists>d p. t \<in> set (ready_queues s d p))  \<longleftrightarrow> (tcbQueued |< tcbs_of' s') t"
+  apply (intro iffI)
+   apply clarsimp
+   apply (frule in_set_ready_queues_inQ_eq)
+   apply (fastforce simp: inQ_def opt_map_def opt_pred_def split: option.splits)
+  apply (fastforce simp: ready_queues_relation_def Let_def inQ_def opt_pred_def
+                  split: option.splits)
+  done
+
 lemma tcbSchedEnqueue_corres:
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/TcbAcc_R.thy:2494]: the proof of this lemma looks rather similar to tcbSchedAppend_corres, I'm wondering if we know why this one is here and the other in Schedule_R

File: proof/refine/AARCH64/TcbAcc_R.thy [hunk 53]
```diff
@@ -2043,47 +2851,339 @@ lemma gets_the_exec: "f s \<noteq> None \<Longrightarrow>  (do x \<leftarrow> ge
...
+crunch (no_fail) no_fail[wp]: removeFromBitmap
+
+crunches removeFromBitmap
+  for ready_queues_relation[wp]: "ready_queues_relation s"
+  and list_queue_relation[wp]:
+   "\<lambda>s'. list_queue_relation ts (P (ksReadyQueues s'))
+                             (tcbSchedNexts_of s') (tcbSchedPrevs_of s')"
+  (simp: bitmap_fun_defs ready_queues_relation_def)
+
+\<comment> \<open>A direct analogue of tcbQueueRemove\<close>
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/TcbAcc_R.thy:2885]: I'm a bit lost as to what this is for. Maybe the comment could indicate that? Only knowing it's an analogue doesn't explain its introduction.

File: proof/crefine/AARCH64/Fastpath_Equiv.thy [hunk 54]
```diff
@@ -1487,11 +1502,21 @@ lemma monadic_rewrite_fail:
   "monadic_rewrite True E \<top> fail g"
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/Fastpath_Equiv.thy:1502]: while we're here: FIXME move?

File: proof/crefine/AARCH64/IsolatedThreadAction.thy [hunk 55]
```diff
@@ -1572,19 +1570,23 @@ lemma thread_actions_isolatableD:
...
 lemma switchToThread_rewrite:
   "monadic_rewrite True True
        (ct_in_state' (Not \<circ> runnable') and cur_tcb' and obj_at' (Not \<circ> tcbQueued) t)
        (switchToThread t)
        (do Arch.switchToThread t; setCurThread t od)"
   apply (simp add: switchToThread_def Thread_H.switchToThread_def)
   apply (monadic_rewrite_l tcbSchedDequeue_rewrite, simp)
-   apply (rule monadic_rewrite_refl)
+  apply (repeat_unless \<open>rule monadic_rewrite_refl\<close> monadic_rewrite_symb_exec_l)
+      apply wpsimp+
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/IsolatedThreadAction.thy:1589]: I'm curious what's happening here that stops the refl being the right way to go. In some cases you do really need to do a bunch of symbolic execution, make a claim that the return values are identical, and then wpsimp your way to showing that. The `repeat_unless` seems a bit odd, but it's probably doing the same as `monadic_rewrite_symb_exec_l+, rule monadic_rewrite_refl`. Does the `repeat_unless` gain anything?

File: proof/infoflow/refine/ADT_IF_Refine.thy (hunk 37 above)
Comment (michaelmcinerney) [reply proof/infoflow/refine/ADT_IF_Refine.thy:307]: It was correct before. `threadSet_corresT` now includes some assumptions about the `tcbSchedPrev/Next` fields and `tcbQueued` because of the new `ready_queues_relation`.

File: proof/refine/AARCH64/Invariants_H.thy (hunk 41 above)
Comment (michaelmcinerney) [reply proof/refine/AARCH64/Invariants_H.thy:216]: `tcbQueued` appears only in the Haskell and C TCB objects. 

Maybe you already know this, but it took me a little while to think this through originally, so I'll write it out: it's possible for a ready queue to be a singleton, in which case the next and prev pointers are `None`, but the flag is still set. So they're closely related, but the flag can't be eliminated in favour of the next and prev pointers.

File: proof/crefine/AARCH64/Schedule_C.thy [hunk 56]
```diff
@@ -281,37 +370,40 @@ proof -
...
-    apply (frule invs_no_cicd'_queues)
+    apply clarsimp
     apply (frule invs_no_cicd'_max_CurDomain)
-    apply (frule invs_no_cicd'_queues)
-    apply (clarsimp simp: valid_queues_def lookupBitmapPriority_le_maxPriority)
+    apply (frule invs_no_cicd'_pspace_aligned')
+    apply (frule invs_no_cicd'_pspace_distinct')
+    apply (frule invs_no_cicd'_valid_bitmaps)
+    apply (frule valid_bitmaps_bitmapQ_no_L1_orphans)
+    apply (frule valid_bitmaps_valid_bitmapQ)
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/Schedule_C.thy:396]: I wonder whether this is better than unfolding it. Might still be.

File: proof/refine/AARCH64/Invariants_H.thy (hunk 42 above)
Comment (michaelmcinerney) [reply proof/refine/AARCH64/Invariants_H.thy:946]: I think Ed used the style I use here quite a lot when we were doing MCS Refine, and I just picked up on that. It seems from the style guide that `text` is favoured, so I could change it to that if that's best.

File: proof/crefine/AARCH64/Schedule_C.thy [hunk 57]
```diff
@@ -216,13 +244,61 @@ lemma switchToThread_ccorres':
...
+     apply assumption
+    apply assumption
+   apply (clarsimp simp: getQueue_def gets_exs_valid)
+  apply clarsimp
+  apply (drule spec, erule mp)
+  apply (erule rf_sr_ctcb_queue_relation)
+   apply (simp add: maxDom_to_H maxPrio_to_H)+
+  done
+
+(* FIXME: replace the version of this rule in Schedule_R with this more general version *)
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/Schedule_C.thy:272]: good idea, planned for after-this-PR?

File: proof/refine/AARCH64/orphanage/Orphanage.thy (hunk 44 above)
Comment (michaelmcinerney) [reply proof/refine/AARCH64/orphanage/Orphanage.thy:552]: I sort of thought `supply` bits came first, but I can change this to whatever. Some of these Orphanage proofs might have a slightly older flavour since I was reworking old proofs

File: proof/refine/AARCH64/orphanage/Orphanage.thy [hunk 58]
```diff
@@ -1144,24 +909,20 @@ proof -
...
-               | clarsimp simp: all_queued_tcb_ptrs_def
-               | strengthen all_invs_but_ct_idle_or_in_cur_domain'_strg
-               | wps tcbSchedEnqueue_ct')+)[1]
-        apply wp[1]
+          apply wpsimp
+         apply ((wp tcbSchedEnqueue_no_orphans tcbSchedEnqueue_all_queued_tcb_ptrs'
+                      hoare_drop_imp
+                 | clarsimp simp: all_queued_tcb_ptrs_def
+                 | strengthen all_invs_but_ct_idle_or_in_cur_domain'_strg
+                 | rule hoare_lift_Pf2[where f=ksCurThread])+)[1]
```
[the remark this answers is not in the document]
Comment (michaelmcinerney) [reply proof/refine/AARCH64/orphanage/Orphanage.thy:924]: I have a feeling I did try that, but I can check.

File: proof/crefine/AARCH64/Schedule_C.thy [hunk 59]
```diff
@@ -216,13 +244,61 @@ lemma switchToThread_ccorres':
...
+  apply (rule ccorres_symb_exec_l2)
+     defer
+     defer
+     apply (rule gq_sp)
+    defer
+    apply (rule ccorres_guard_imp)
+    apply (rule cc)
+     apply clarsimp
+     apply assumption
+    apply assumption
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/Schedule_C.thy:264]: this proof looks like a struggle uphill both ways in the snow... any insight into why the rules are matching so badly? `ccorres_symb_exec_l` has 4 versions (2,3,and `'`), none of them help?

File: proof/refine/AARCH64/CNodeInv_R.thy (hunk 46 above)
Comment (michaelmcinerney) [reply proof/refine/AARCH64/CNodeInv_R.thy:5578]: Corey wondered about an abbreviation for this, too, but it's only used with things related to finalising a TCB. I still think it's insignificant enough for it to not get its own abbreviation, but if I'm in the minority here I can definitely make an abbreviation for it. It's not quite exactly an unqueued TCB, for the reason I gave it another comment about the prev and next pointers and the flag.

File: proof/crefine/AARCH64/Schedule_C.thy [hunk 60]
```diff
@@ -100,6 +102,26 @@ lemma Arch_switchToThread_ccorres:
   apply (clarsimp simp: typ_heap_simps ctcb_relation_def carch_tcb_relation_def)
   done
 
+lemma all_invs_but_ct_idle_or_in_cur_domain'_pspace_aligned':
+  "all_invs_but_ct_idle_or_in_cur_domain' s \<Longrightarrow> pspace_aligned' s"
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/Schedule_C.thy:106]: I think there's an abbreviation for this, `invs_no_cicd'`? A bunch of lemmas also use the abbreviated form in their name, as it's somewhat long-winded.

File: proof/refine/AARCH64/IpcCancel_R.thy (hunk 49 above)
Comment (michaelmcinerney) [reply proof/refine/AARCH64/IpcCancel_R.thy:1193]: I wasn't sure whether `unfolding blah by method1 method2` was too much, but sure, I can do that.

File: proof/crefine/AARCH64/SR_lemmas_C.thy [hunk 61]
```diff
@@ -411,11 +411,15 @@ lemma cmdbnode_relation_mdb_node_to_H [simp]:
   unfolding cmdbnode_relation_def mdb_node_to_H_def mdb_node_lift_def cte_lift_def
   by (fastforce split: option.splits)
 
-definition
-  tcb_no_ctes_proj :: "tcb \<Rightarrow> Structures_H.thread_state \<times> machine_word \<times> machine_word \<times> arch_tcb \<times> bool \<times> word8 \<times> word8 \<times> word8 \<times> nat \<times> fault option \<times> machine_word option"
+definition tcb_no_ctes_proj ::
+  "tcb \<Rightarrow> Structures_H.thread_state \<times> machine_word \<times> machine_word \<times> arch_tcb \<times> bool \<times> word8
+   \<times> word8 \<times> word8 \<times> nat \<times> fault option \<times> machine_word option
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/SR_lemmas_C.thy:416]: I think this indentation is incorrect. The product belongs entirely to the right argument, so the entire product should be to the right of `⇒ `

File: proof/refine/AARCH64/Schedule_R.thy (hunk 51 above)
Comment (michaelmcinerney) [reply proof/refine/AARCH64/Schedule_R.thy:372]: Yeah these proofs are really the heart of the linked list work (well, along with the library lemmas about `heap_ls` and `sym_heap` that were merged quite a while ago), and are quite finicky (hopefully better than the old CRefine proofs and the CNode proofs we have in Refine, but just as involved). The `cut_tac`s are normally done because `frule`ing is not easy to do, and the assumption we gain is used in several ways. If anyone steps through these proofs and has some nicer approaches, then that would be interesting.

File: proof/crefine/AARCH64/Recycle_C.thy (hunk 3 above)
Comment (Xaphiosis) [reply proof/crefine/AARCH64/Recycle_C.thy:1078]: Definitely looks off, but might only be the indent.

File: proof/refine/AARCH64/TcbAcc_R.thy (hunk 52 above)
Comment (michaelmcinerney) [reply proof/refine/AARCH64/TcbAcc_R.thy:2494]: I think I put the `corres` proofs where the old versions were. I think because the enqueue is used in more functions in the kernel than the append is, we do a lot of the enqueue stuff first. 

The proofs are quite similar, but unfortunately because the Haskell manipulates the next and prev pointers, they're not instances of a more general theorem.

File: proof/crefine/AARCH64/IsolatedThreadAction.thy (hunk 55 above)
Comment (michaelmcinerney) [reply proof/crefine/AARCH64/IsolatedThreadAction.thy:1589]: I'll open this up tomorrow and check. I'll report back

File: proof/crefine/AARCH64/Schedule_C.thy (hunk 57 above)
Comment (michaelmcinerney) [reply proof/crefine/AARCH64/Schedule_C.thy:272]: Sure, I'm making a list of PRs to do after this

File: proof/crefine/AARCH64/Fastpath_Equiv.thy [hunk 62]
```diff
@@ -1067,11 +1088,11 @@ crunch only_cnode_caps[wp]: doFaultTransfer "\<lambda>s. P (only_cnode_caps (cte
...
-  apply (simp add: tcbSchedDequeue_def when_def)
-  apply (monadic_rewrite_l monadic_rewrite_if_l_False \<open>wp threadGet_const\<close>)
-   apply (monadic_rewrite_symb_exec_l, rule monadic_rewrite_refl)
-   apply wp+
-  apply (clarsimp simp: o_def obj_at'_def)
+  apply (simp add: tcbSchedDequeue_def)
+  apply monadic_rewrite_symb_exec_l
+    apply (monadic_rewrite_symb_exec_l_known False, simp)
+     apply (rule monadic_rewrite_refl)
+    apply (wpsimp wp: threadGet_const)+
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/Fastpath_Equiv.thy:1095]: Something about this strikes me as automation failing or being disabled compared to what we had previously. Did something in the spec get swapped around? We're no longer doing a generic step with a provided rule for threadGet, and it seems we need to walk to it manually now.

File: proof/crefine/AARCH64/Schedule_C.thy (hunk 59 above)
Comment (michaelmcinerney) [reply proof/crefine/AARCH64/Schedule_C.thy:264]: I think this proof was copied from somewhere, and it had this rather unusual structure. Would it be better to try to rewrite this?

File: proof/crefine/AARCH64/Schedule_C.thy (hunk 60 above)
Comment (michaelmcinerney) [reply proof/crefine/AARCH64/Schedule_C.thy:106]: I generally hate these abbreviations. It's just another bunch of stuff to remember. For example, `invs_psp_aligned` versus `invs_distinct` or whatever. It's rather horrible. But I can do this here.

File: proof/crefine/AARCH64/Fastpath_Equiv.thy (hunk 62 above)
Comment (michaelmcinerney) [reply proof/crefine/AARCH64/Fastpath_Equiv.thy:1095]: The spec for `tcbSchedDequeue` has changed. It now uses the prev and next pointers, but maybe it is the addition of the `stateAssert` that is causing the problem here. I think you mentioned something before about functions which do not change the state and whose results are not used later in the monadic definition tripping up the automation somehow

File: proof/crefine/AARCH64/ADT_C.thy [hunk 63]
```diff
@@ -820,17 +844,21 @@ lemma cthread_state_rel_imp_eq:
   apply (cases y, simp_all add: ThreadState_defs)+
   done
 
-lemma ksPSpace_valid_objs_tcbBoundNotification_nonzero:
-  "\<exists>s. ksPSpace s = ah \<and> no_0_obj' s \<and> valid_objs' s
-     \<Longrightarrow> map_to_tcbs ah p = Some tcb \<Longrightarrow> tcbBoundNotification tcb \<noteq> Some 0"
+(* FIXME: choose better name for this lemma *)
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/ADT_C.thy:847]: The assumption order is unusual, it seems like the characteristic assumption is the `map_to_tcbs` one, i.e. if you found some tcb at `p`, then its bound pointers can't be NULL pointers, and I'd put that first. Then the name would be something like `map_to_tcbs_Some_bound_objs_nonzero`. I don't think there will be another `bound_objs_nonzero` that is stronger than using `valid_objs'`

File: proof/crefine/AARCH64/ADT_C.thy [hunk 64]
```diff
@@ -855,36 +883,78 @@ lemma carch_tcb_relation_imp_eq:
...
+lemma
+  shows tcb_at'_tcbBoundNotification:
+  "\<lbrakk>pspace_aligned' as; pspace_distinct' as; valid_tcb' atcb as\<rbrakk>
+   \<Longrightarrow> bound (tcbBoundNotification atcb) \<longrightarrow> ntfn_at' (the (tcbBoundNotification atcb)) as"
+  and tcb_at'_tcbSchedPrev:
+  "\<lbrakk>pspace_aligned' as; pspace_distinct' as; valid_tcb' atcb as\<rbrakk>
+   \<Longrightarrow> tcbSchedPrev atcb \<noteq> None \<longrightarrow> tcb_at' (the (tcbSchedPrev atcb)) as"
+  and tcb_at'_tcbSchedNext:
+  "\<lbrakk>pspace_aligned' as; pspace_distinct' as; valid_tcb' atcb as\<rbrakk>
+   \<Longrightarrow> tcbSchedNext atcb \<noteq> None \<longrightarrow> tcb_at' (the (tcbSchedNext atcb)) as"
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/ADT_C.thy:899]: Since all three of these have identical assumptions, would it make sense to compress them via `assumes <assumptions> shows conclusion1 and conclusion2 and conclusion3`?

File: proof/crefine/AARCH64/ADT_C.thy (hunk 63 above)
Comment (michaelmcinerney) [reply proof/crefine/AARCH64/ADT_C.thy:847]: Can do

File: proof/crefine/AARCH64/IpcCancel_C.thy [hunk 65]
```diff
@@ -831,8 +517,8 @@ lemma cready_queues_index_to_C_def2:
 lemma ready_queues_index_spec:
   "\<forall>s. \<Gamma> \<turnstile> {s'. s' = s \<and> (Kernel_Config.numDomains \<le> 1 \<longrightarrow> dom_' s' = 0)}
        Call ready_queues_index_'proc
-       \<lbrace>\<acute>ret__unsigned_long = (dom_' s) * 0x100 + (prio_' s)\<rbrace>"
-  by vcg (simp add: numDomains_sge_1_simp)
+       \<lbrace>\<acute>ret__unsigned_long = (dom_' s) * word_of_nat numPriorities + (prio_' s)\<rbrace>"
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/IpcCancel_C.thy:520]: good idea. when I tried this, I had trouble getting this rule to apply

File: proof/crefine/AARCH64/IpcCancel_C.thy [hunk 66]
```diff
@@ -990,13 +626,248 @@ lemma c_invert_assist: "3 - (ucast (p :: priority) >> 6 :: machine_word) < 4"
   using prio_ucast_shiftr_wordRadix_helper'[simplified wordRadix_def]
   by - (rule word_less_imp_diff_less, simp_all)
 
+lemma addToBitmap_ccorres:
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/IpcCancel_C.thy:629]: out of curiosity, did you copy these from elsewhere, or redo?

File: proof/crefine/AARCH64/IpcCancel_C.thy [hunk 67]
```diff
@@ -1007,269 +878,257 @@ proof -
...
-              apply (clarsimp simp: h_val_field_clift' h_t_valid_clift)
-              apply (frule_tac d="tcbDomain tcb" and p="tcbPriority tcb" in rf_sr_sched_queue_relation)
-                apply clarsimp
-               apply clarsimp
-              apply (clarsimp simp: cready_queues_index_to_C_def numPriorities_def)
-              apply (frule_tac s=\<sigma> in tcb_queue'_head_end_NULL)
-               apply (simp add: valid_queues_valid_q)
-              apply clarsimp
-              apply (drule tcb_queue_relation'_empty_ksReadyQueues; simp add: valid_queues_valid_q)
-             (* queue was not empty, add t to queue and leave bitmaps alone *)
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/IpcCancel_C.thy:1121]: I have minor concerns that these informative comments went away in the new proof, and no new comments replaced them.

File: proof/crefine/AARCH64/IpcCancel_C.thy [hunk 68]
```diff
@@ -1336,370 +1174,382 @@ lemma cbitmap_L2_relation_bit_clear:
...
+       (* the check on the C side is identical to checking the L2 entry, rewrite the condition *)
+       apply (simp add: getReadyQueuesL2Bitmap_def)
+       apply (rule ccorres_symb_exec_l3, rename_tac l2)
+          apply (rule_tac C'="{s. l2 = 0}"
+                      and Q="\<lambda>s. l2 = ksReadyQueuesL2Bitmap s (tdom, invertL1Index (prioToL1Index prio))"
+                   in ccorres_rewrite_cond_sr[where Q'=UNIV])
+           apply clarsimp
+           apply (frule rf_sr_cbitmap_L2_relation)
+           apply (clarsimp simp: cbitmap_L2_relationD invert_l1_index_limit split: if_split)
+          (* unset L1 bit when L2 entry is empty *)
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/IpcCancel_C.thy:1224]: thanks

File: proof/crefine/AARCH64/IpcCancel_C.thy [hunk 69]
```diff
@@ -1336,370 +1174,382 @@ lemma cbitmap_L2_relation_bit_clear:
...
-           apply (clarsimp)
-           apply (rule conjI; clarsimp simp: typ_heap_simps)
-            apply (rule conjI)
-             apply (fastforce simp: c_invert_assist l2BitmapSize_def' wordRadix_def)
-            apply (rule conjI; clarsimp)
-             (* invalid, missing bitmap updates on haskell side *)
-             apply (drule tcb_queue_relation'_empty_ksReadyQueues)
-              apply (fold_subgoals (prefix))[2]
-             subgoal premises prems using prems by (fastforce elim: obj_at'_weaken)+
-            (* invalid, missing bitmap updates on haskell side *)
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/IpcCancel_C.thy:1657]: same comment as above on disappearing comments; maybe I'm missing something, did this get factored out?

File: proof/refine/AARCH64/Invariants_H.thy (hunk 41 above)
Comment (Xaphiosis) [reply proof/refine/AARCH64/Invariants_H.thy:216]: You're absolutely right, and it did not occur to me immediately (mind too stuck in old proofs). Perhaps this is worthy of a comment above, especially as it took you a little while to think it through?

File: proof/refine/AARCH64/Invariants_H.thy (hunk 42 above)
Comment (Xaphiosis) [reply proof/refine/AARCH64/Invariants_H.thy:946]: `text` won't work inside outer commands, only between them, so I think leave it for now, we don't seem to have a coherent policy

File: proof/refine/AARCH64/Invariants_H.thy (hunk 43 above)
Comment (Xaphiosis) [reply proof/refine/AARCH64/Invariants_H.thy:874]: Oh it's not a style/naming issue, I'm confused as to what it's doing. It looks like it's clobbering the existing definition somehow, or maybe there was only a `consts'` and this provides the definition?

File: proof/refine/AARCH64/orphanage/Orphanage.thy (hunk 44 above)
Comment (Xaphiosis) [reply proof/refine/AARCH64/orphanage/Orphanage.thy:552]: Yeah, good point. The `supply` can stay first. So maybe only tweak the `apply` into an `unfolding`.

File: proof/refine/AARCH64/orphanage/Orphanage.thy (hunk 58 above)
[the remark this answers is not in the document]
Comment (Xaphiosis) [reply proof/refine/AARCH64/orphanage/Orphanage.thy:924]: There's a lot of it around. I wouldn't waste your time diving in and fixing it now necessarily, but I wanted to observe that with `wps` this is in most cases something we might want to avoid in new proofs. The reason is the risk of looping. With the `f=ksCurThread` the risk is reduced (which is how I recognise my own handiwork), but it's still not ideal.

File: proof/refine/AARCH64/CNodeInv_R.thy (hunk 46 above)
Comment (Xaphiosis) [reply proof/refine/AARCH64/CNodeInv_R.thy:5578]: That's fine, after looking through the rest of the files, you're right that it doesn't pop up that often. Fine to keep as is.

File: proof/refine/AARCH64/IpcCancel_R.thy (hunk 49 above)
Comment (Xaphiosis) [reply proof/refine/AARCH64/IpcCancel_R.thy:1193]: We do it a fair bit. Usually `method1` being some `wpsimp` flavour, and `method2` being mop-up.

File: proof/refine/AARCH64/TcbAcc_R.thy (hunk 52 above)
Comment (Xaphiosis) [reply proof/refine/AARCH64/TcbAcc_R.thy:2494]: Yes, their placement was before your time, but you have the freshest view of them. Do you think there is any benefit to migrating them to be closer together (copy-pasta nearby is easier to notice and update in tandem), or would it make a bigger mess?

File: proof/crefine/AARCH64/Schedule_C.thy (hunk 59 above)
Comment (Xaphiosis) [reply proof/crefine/AARCH64/Schedule_C.thy:264]: I'd say it's worth a try, but as it's copied, I'd say put it on your TODO list and like the FIXME move above do it in another PR.

File: proof/crefine/AARCH64/Schedule_C.thy (hunk 60 above)
Comment (Xaphiosis) [reply proof/crefine/AARCH64/Schedule_C.thy:106]: The irony is I can live with the longer versions, but am also trying to keep consistent with what the rest of the proofs are doing. @lsf37 do you have any thoughts on this? I don't really have a long history with `invs_no_cicd'`.

**Comment by Xaphiosis** [comment]
I've reviewed the generic and AARCH64 files now (assuming the other arches are same and will have same commentary apply to them, except maybe ARM/ARM_HYP will be extra clunky).

This is really a tremendous amount of work, and the sea of red in IpcCancel_C was really nice to see. Compared to the amount of changes, I only have small nitpicks related to documentation, maintenance and some automation. Very nice work. I really hope it helps when it comes to merges into `rt` as well. Do you by any chance have a before/after of Refine and CRefine (on the same machine) for any arch so we can see how much performance improved?

File: proof/crefine/AARCH64/Schedule_C.thy (hunk 60 above)
Comment (lsf37) [reply proof/crefine/AARCH64/Schedule_C.thy:106]: I think we should standardise on the short name everywhere (`invs_no_cicd'`) and have the explanation in a comment in the description. Having both with abbreviation/definition is indeed annoying and a source of confusion. (Also agree with the annoyance for `invs_psp_aligned` vs `invs_distinct` etc -- those are very old names and it would be nice to go to a standardised naming scheme for them -- for those I wouldn't mind the full names, they are not quite as long as `all_invs_but_ct_idle_or_in_cur_domain`).

That should be a separate PR/issue, though. This one might actually be relatively easy/fast to do with a script, since it's pure renaming.

File: proof/crefine/AARCH64/IpcCancel_C.thy (hunk 66 above)
Comment (michaelmcinerney) [reply proof/crefine/AARCH64/IpcCancel_C.thy:629]: `addToBitmap_corres` and `removeFromBitmap_corres` are new. I did the first and you did the second. Previously they were all jumbled up in the proofs of the `corres` proofs for the ready queue functions

File: proof/crefine/AARCH64/IpcCancel_C.thy [hunk 70]
```diff
@@ -1007,269 +878,257 @@ proof -
...
-             apply (drule_tac qhead'="tcb_ptr_to_ctcb_ptr t" and s=\<sigma> in tcbSchedEnqueue_update,
-                    simp_all add: valid_queues_valid_q)[1]
+          apply (simp add: when_def unless_def del: Collect_const split del: if_split)
+          apply (rule ccorres_cond[where R=\<top>])
+            apply (simp add: to_bool_def)
+           apply (rule ccorres_rhs_assoc)+
+           apply csymbr
+           apply csymbr
+           apply csymbr
+           apply csymbr
```
[the remark this answers is not in the document]
Comment (michaelmcinerney) [reply proof/crefine/AARCH64/IpcCancel_C.thy:901]: I think these steps were there in the original proofs and my tendency was to leave those bits alone. But if I'm back in this area again then maybe I will use `repeat`

File: proof/crefine/AARCH64/IpcCancel_C.thy (hunk 67 above)
Comment (michaelmcinerney) [reply proof/crefine/AARCH64/IpcCancel_C.thy:1121]: The proofs in CRefine are now super boring, as I intended all along. There are the `ccorres` proofs for the library functions, and then for `ccorres` proofs `tcbSchedEnqueue/Append/Dequeue` are little more than using these new rules. Unfortunately these `ccorres` proofs are still quite verbose, mainly because there are so many `threadSet` operations, each of which is handled with a long-winded `ccorres` step. 

The difficult parts of the `ccorres` proofs that warranted these informative comments are now the difficult parts of the `corres` proofs in Refine, where I do have comments similar to this (though due to the separation of the bitmap rules, there's no mixing any more)

**Comment by michaelmcinerney** [comment]
> I've reviewed the generic and AARCH64 files now (assuming the other arches are same and will have same commentary apply to them, except maybe ARM/ARM_HYP will be extra clunky).
> 
> This is really a tremendous amount of work, and the sea of red in IpcCancel_C was really nice to see. Compared to the amount of changes, I only have small nitpicks related to documentation, maintenance and some automation. Very nice work. I really hope it helps when it comes to merges into `rt` as well. Do you by any chance have a before/after of Refine and CRefine (on the same machine) for any arch so we can see how much performance improved?

Thanks Raf. I haven't done a before/after, but we could still do that before this is merged. I have never run any benchmarks like Corey has before, but that might be fun to do.

I'm actually not expecting that much of a performance increase from this work. It seems like the `corres` proofs contain a lot of slow list reasoning (`butlast` and `tl` and so on always seem to be ugly). If people have ideas on how that can be improved then that would be great. 

I think the main benefit of this work is a much nicer abstraction to work with, especially when it comes to something as difficult as a loop, like we have in `tcbReleaseEnqueue`. I think that if we did linked lists in this way for the endpoint queues, then we would see a massive increase in speed. All the infrastructure should already be there for that to happen, but it would still be a fairly hefty project to carry it out. Another benefit of doing the endpoint queues in this way would be that we could get rid of all the `ctcb_queue_relation` business, even deleting the `TcbQueue` file we have in CRefine.

File: proof/crefine/AARCH64/IsolatedThreadAction.thy (hunk 55 above)
Comment (michaelmcinerney) [reply proof/crefine/AARCH64/IsolatedThreadAction.thy:1589]: `repeat_unless` is actually doing something for us here, which is to say that `monadic_rewrite_symb_exec_l+, rule monadic_rewrite_refl` is not what we want. 

The LHS of the `monadic_rewrite` has a function with some getters and some `assert/stateAssert`s and then afterwards, the two functions are exactly the same. If we just let `monadic_rewrite_symb_exec_l+` run, then it would consume too much of the LHS and then we don't get a perfect matching for `monadic_rewrite_refl` to then apply. I thought that maybe there would be an easy way to get one of the custom methods to carry this out for us, but I'm not sure which one it should be. Do you have any other guesses? I've tried things with both `monadic_rewrite_l` and `monadic_rewrite_symb_exec_l` and can't get anything working

Comment (michaelmcinerney) [reply proof/crefine/AARCH64/IsolatedThreadAction.thy:1589]: And we do have `monadic_rewrite_single_pass`, which uses `repeat_unless` internally, but that doesn't seem to be intended as a "user level" method for our apply scripts

Comment (Xaphiosis) [reply proof/crefine/AARCH64/IsolatedThreadAction.thy:1589]: I see now, yeah. A comment would've helped here ("get rid of getters and asserts on LHS" or somesuch). It looks like you want something like a "symbolically execute on left until X, then refl", but without the automation to do that, you're doing "try refl, and if that doesn't work symbolically execute on left, repeat".  I'll take a look at whether I've handled something like this in a nicer way, but for now this is fine. I think "my way" would've been to add a comment like I suggested, then do `repeat 4 monadic_rewrite_symb_exec_l` or something, then refl. With the comment, these feel roughly equivalent.

Comment (Xaphiosis) [reply proof/crefine/AARCH64/IsolatedThreadAction.thy:1589]: `monadic_rewrite_single_pass` is designed for when one of the sides is schematic, and you want to step over the non-schematic side until a rule applies... I don't think it'll help here, it sounds like your RHS isn't schematic anyway.

Comment (michaelmcinerney) [reply proof/crefine/AARCH64/IsolatedThreadAction.thy:1589]: I think I prefer the `repeat_unless` over the `repeat` with a hard coded number, just in case we add more asserts to something and the number changes. 

Would `(* strip LHS of getters and asserts until LHS and RHS are the same *)` be a good comment? I can go with your comment verbatim if you like, or if you find a nicer way, I can do that

Comment (Xaphiosis) [reply proof/crefine/AARCH64/IsolatedThreadAction.thy:1589]: Your comment is more useful, happy with that and keeping current version. I can't think of a better way of achieving this, and understand what you mean about more getters/asserts, so let's keep your version as well. If you feel like there's a principle here that automation could handle better, let me know.

File: proof/refine/AARCH64/TcbAcc_R.thy (hunk 52 above)
Comment (michaelmcinerney) [reply proof/refine/AARCH64/TcbAcc_R.thy:2494]: I think the only benefit would be to make it easier to update both of them if they both need trivial changes. I'd rather not move them as part of this PR, if I do move them. Would maybe a comment saying `This proof shares many similarities with the proof of @{thm tcbSchedEnqueue_corres}` be a good compromise for now? 

If everyone else thinks I should move them, then I can do this in another small PR after this is merged (though I'd rather not accumulate half a dozen PRs, seeing that they all need review and nothing is arch split so it takes a long time to do anything)

File: proof/refine/ARM/Schedule_R.thy (hunk 35 above)
Comment (michaelmcinerney) [reply proof/refine/ARM/Schedule_R.thy:672]: Moved to `DetSchedInvs`

**Comment by corlewis** [comment]
> > This is really a tremendous amount of work, and the sea of red in IpcCancel_C was really nice to see. Compared to the amount of changes, I only have small nitpicks related to documentation, maintenance and some automation. Very nice work. I really hope it helps when it comes to merges into `rt` as well. Do you by any chance have a before/after of Refine and CRefine (on the same machine) for any arch so we can see how much performance improved?
> 
> I'm actually not expecting that much of a performance increase from this work. It seems like the `corres` proofs contain a lot of slow list reasoning (`butlast` and `tl` and so on always seem to be ugly). If people have ideas on how that can be improved then that would be great.

Initial tests show a slight slowdown in `Refine`, like you've suggested. I'll report on `CRefine` tomorrow.

```
master:
  N = 10
  Average ARM Refine: (00:10:52 real, 01:06:14 cpu, 16.06GB)
  Standard Deviation: (00:00:19 real, 00:02:51 cpu, 2.42GB)
linked_list:
  N = 10
  Average ARM Refine: (00:12:19 real, 01:17:09 cpu, 15.42GB)
  Standard Deviation: (00:00:21 real, 00:03:09 cpu, 2.11GB)
  ```

File: proof/refine/AARCH64/Invariants_H.thy (hunk 43 above)
Comment (michaelmcinerney) [reply proof/refine/AARCH64/Invariants_H.thy:874]: Yes it was just a `consts'` and this provides the definition

File: proof/refine/AARCH64/Invariants_H.thy (hunk 41 above)
Comment (michaelmcinerney) [reply proof/refine/AARCH64/Invariants_H.thy:216]: I've also rearranged this a little to emphasise the connection between the next and prev fields and `tcbQueued` flag, and reformatted it a little to hopefully make the logical structure of it clearer.

Comment (michaelmcinerney) [reply proof/refine/AARCH64/Invariants_H.thy:216]: As for the comment, it's one of those annoying cases where a clear explanation ends up rather long and clunky. Here's what I have at the moment.

Note that for a TCB, we must consider its tcbSchedPrev and tcbSchedNext fields in addition to its
  tcbQueued field, since it may be sole member of a ready queue, in which case its tcbQueued field
  is @{term True} while its tcbSchedPrev and tcbSchedNext fields are both @{term None}.

Does that sound reasonable? I think it's horribly ugly.

Comment (Xaphiosis) [reply proof/refine/AARCH64/Invariants_H.thy:216]: Does something like `For a TCB, we need to consider the next and previous pointers in addition to tcbQueued, as for a singleton queue they must both be None.` help make it shorter? The "scheduling" and "ready" stuff is probably not entirely exclusive; one day we might also get rid of IPC queue refinement, and I think that'd use the same pointers.

**Comment by corlewis** [comment]
> Initial tests show a slight slowdown in `Refine`, like you've suggested. I'll report on `CRefine` tomorrow.

`CRefine` was very inconsistent this time for some reason but it does look like its performance has improved.
```
master:
  N = 14
  Average ARM CRefine: (00:29:47 real, 03:29:03 cpu, 22.12GB)
  Standard Deviation: (00:02:16 real, 00:27:27 cpu, 0.30GB)
linked_list:
  N = 14
  Average ARM CRefine: (00:26:25 real, 03:13:37 cpu, 22.22GB)
  Standard Deviation: (00:01:46 real, 00:22:36 cpu, 0.21GB)
  ```

Overall, I think this will be a noticeable performance improvement, particularly as these sessions are built in parallel and so reducing the longer time of `CRefine` should be more of a benefit.

**Comment by Xaphiosis** [comment]
> Overall, I think this will be a noticeable performance improvement, particularly as these sessions are built in parallel and so reducing the longer time of `CRefine` should be more of a benefit.

Thanks @corlewis ! The time saved in CRefine is nice indeed, even if overall it's only one wall-minute saved across both.

**Comment by lsf37** [comment]
Nice performance numbers! Pretty much as expected (slightly slower Refine, faster CRefine), but good to see that the CRefine speedup is a good bit more than the Refine slowdown. Quite happy with that!

File: proof/refine/AARCH64/TcbAcc_R.thy (hunk 52 above)
Comment (Xaphiosis) [reply proof/refine/AARCH64/TcbAcc_R.thy:2494]: Yeah, maybe throw in a comment for that and the Dequeue equivalent.

File: proof/crefine/AARCH64/IpcCancel_C.thy (hunk 67 above)
Comment (Xaphiosis) [reply proof/crefine/AARCH64/IpcCancel_C.thy:1121]: That should be fine. Thanks.

File: proof/crefine/AARCH64/IpcCancel_C.thy (hunk 66 above)
Comment (Xaphiosis) [reply proof/crefine/AARCH64/IpcCancel_C.thy:629]: Ah, that's why it fell into the uncanny valley of memory. Cool.

File: proof/refine/AARCH64/Invariants_H.thy (hunk 42 above)
Comment (Xaphiosis) [reply proof/refine/AARCH64/Invariants_H.thy:946]: +1 for issue for the style guide

File: proof/infoflow/refine/RISCV64/Example_Valid_StateH.thy (hunk 14 above)
Comment (Xaphiosis) [reply proof/infoflow/refine/RISCV64/Example_Valid_StateH.thy:3430]: One of the problems with `using` is that it screws with the autoindenter. The other issue is it's introducing a rule as an assumption, and then it's not clear what happens to it before it applies. Sometimes it can be avoided by `simp: whatever[simplified]`, sometimes with variable constraint/instantiation. I agree that `using` is better than `apply (insert blah)`.

File: proof/refine/AARCH64/Invariants_H.thy (hunk 41 above)
Comment (michaelmcinerney) [reply proof/refine/AARCH64/Invariants_H.thy:216]: I think your comment does at least look and sound much nicer. If others like it and think it’s helpful, then I will go with that. 

The other option would be to say something in the Haskell, where the `tcbQueued` field is first defined. We could say that the flag is still necessary in the case if singleton queues. 

But yes we certainly need both the flag for the ready queues and the flag for the release queue in MCS because they share the next and prev pointers, and we’ll see this all over again if we do the endpoint queues, I think. So it’s a general sort of thing.

Comment (michaelmcinerney) [reply proof/refine/AARCH64/Invariants_H.thy:216]: Oh and we do already have a new set of prev and next pointers for endpoint queues. `tcbEPnext` or something

Comment (Xaphiosis) [reply proof/refine/AARCH64/Invariants_H.thy:216]: Oh wow, I did not realise that. In that case the "ready" / "sched" should make an appearance, maybe with `singleton ready queue`?. As for the Haskell, well, you know me, putting a short second comment there (as it's the spec) wouldn't be harmful.

Comment (Xaphiosis) [reply proof/refine/AARCH64/Invariants_H.thy:216]: Nah, I think it's nicer to have these pointers as separate in the refinement, even if they (do they?) share them in the C. The TCB has lots of room, and our Haskell spec doesn't really exist on a real machine (the only reason we'd multiplex them is to save actual memory), so we're good.

Comment (michaelmcinerney) [reply proof/refine/AARCH64/Invariants_H.thy:216]: The more I think about it, the less I like a comment at all, anywhere, and the more I think that if we do have a comment, it should be in the spec. It’s really a justification for having the flag at all. Maybe I could say in the spec “membership in a ready queue cannot be inferred from the tcbSchedPrev and tcbSchedNext fields alone, since these will be None in the case of a singleton ready queue”. Or something more verbose and clunky, because it’s still not super clear

Comment (lsf37) [reply proof/refine/AARCH64/Invariants_H.thy:216]: If you needed to think about it and you wrote it, it's definitely worth a comment :-). I agree that the invariants are probably not the right place for it, so putting it in the spec would make sense. Having an explanation somewhere for how we expect the parts (flag + pointers) to play together would definitely be good.

File: proof/refine/ARM/Schedule_R.thy (hunk 34 above)
Comment (michaelmcinerney) [reply proof/refine/ARM/Schedule_R.thy:440]: Moved, thanks

File: proof/refine/AARCH64/Invariants_H.thy (hunk 41 above)
Comment (michaelmcinerney) [reply proof/refine/AARCH64/Invariants_H.thy:216]: OK, comment now in the Haskell

File: proof/refine/AARCH64/TcbAcc_R.thy (hunk 11 above)
Comment (michaelmcinerney) [reply proof/refine/AARCH64/TcbAcc_R.thy:5473]: Moved to the very top of `KHeap_R`

File: proof/refine/AARCH64/TcbAcc_R.thy (hunk 52 above)
Comment (michaelmcinerney) [reply proof/refine/AARCH64/TcbAcc_R.thy:2494]: I've added the comment I wrote above just before `tcbSchedAppend_corres`

File: proof/crefine/AARCH64/Schedule_C.thy (hunk 57 above)
Comment (michaelmcinerney) [reply proof/crefine/AARCH64/Schedule_C.thy:272]: This was super easy to do, so I've done this as part of this PR.

File: proof/crefine/ARM/Schedule_C.thy (hunk 7 above)
Comment (michaelmcinerney) [reply proof/crefine/ARM/Schedule_C.thy:200]: Fixed

File: proof/crefine/AARCH64/Schedule_C.thy (hunk 57 above)
Comment (lsf37) [reply proof/crefine/AARCH64/Schedule_C.thy:272]: Excellent.

**Review by lsf37 — APPROVED** [review]
This is looking good for merge now from my side. We need to simultaneously merge the corresponding seL4 PR.
